US08455646B2
Preparation of (5-methyl-thiophen-2-yl)-phenylamino-acetic acid methyl ester (I267)
A solution of methanesulfonyloxy-(5-methyl-thiophen-2-yl)-acetic acid methyl ester (I266) (2.10 g, 7.94 mmol), aniline (1.09 mL, 11.9 mmol) and N-ethyl-N-isopropylpropan-2-amine (2.04 mL, 11.9 mmol) in MeCN (10 mL) is heated under microwave irradiation at 100° C. for 1 hour. The solvent is removed, DCM is added and the organic phase is washed with water and brine, dried over Na2SO4 and evaporated. The resulting brown oil is purified by silica gel flash chromatography (Hexane/EtOAc=9575 to 90/10) to obtain intermediate I269 as a yellow oil (500 mg, 24% yield).

reactant | methanesulfonyloxy-(5-methyl-thiophen-2-yl)-acetic acid methyl ester | 7.94 mmol, 2.10 g | COC(C(C=1SC(=CC1)C)OS(=O)(=O)C)=O | C9H12O5S2
reactant | aniline | 11.9 mmol, 1.09 mL | NC1=CC=CC=C1 | C6H7N
reactant | N-ethyl-N-isopropylpropan-2-amine | 11.9 mmol, 2.04 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | MeCN | 10 mL | CC#N | C2H3N
product | (5-methyl-thiophen-2-yl)-phenylamino-acetic acid methyl ester | 500 mg, 24% yield | COC(C(NC1=CC=CC=C1)C=1SC(=CC1)C)=O | C14H15NO2S
